US06774258B2
A mixture of 118 g of 4-methyl-1,4-pentanediol, 173 g of methyl 5-norbornene-2-carboxylate, 1.4 g of sodium methoxide and 400 ml of toluene was heated under reflux for 5 hours while distilling off the methanol which formed during the reaction. The reaction solution was cooled, washed with saturated sodium bicarbonate water, dried over anhydrous sodium sulfate, and concentrated in vacuum. It was purified by vacuum distillation, collecting 221 g of 4-hydroxy-4-methylpentyl 5-norbornene-2-carboxylate (yield: 93%). The physical data of this product were in good coincidence with those of Synthesis Example 1.

reactant | 4-methyl-1,4-pentanediol | 118 g | CC(CCCO)(C)O | C6H14O2
reactant | methyl 5-norbornene-2-carboxylate | 173 g | C12C(CC(C=C1)C2)C(=O)OC | C9H12O2
catalyst | sodium methoxide | 1.4 g | C[O-].[Na+]
solvent | toluene | 400 ml | C1(=CC=CC=C1)C | C7H8
product | 4-hydroxy-4-methylpentyl 5-norbornene-2-carboxylate | 221 g, yield: 93% | C12C(CC(C=C1)C2)C(=O)OCCCC(C)(C)O | C14H22O3
